US07696193B2
1-{5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinyl}-2-pyrrolidinone (E258)
7-[(5-Chloro-2-pyrazinyl)oxy]-3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepine (E257) (132 mg, 0.40 mmol), pyrrolidinone (0.06 ml, 0.80 mmol), potassium carbonate (200 mg, 1.45 mmol), copper (I) iodide (23 mg, 0.12 mmol) and N,N′-dimethylethylenediamine (0.01 ml, 0.12 mmol) were added together in dry dioxane (3 ml) and heated in a microwave reactor at 175° C. for 30 minutes. The mixture was diluted with methanol and applied to a SCX column and washed with methanol then a mixture of 0.880 ammonia/methanol (1:9). The basic fractions were combined and concentrated in vacuo and the resulting residue was purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.2:1.8:98) to afford the title compound (64 mg); MS (ES+) m/e 379 [M+H]+.

reactant | 7-[(5-Chloro-2-pyrazinyl)oxy]-3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.40 mmol, 132 mg | ClC=1N=CC(=NC1)OC1=CC2=C(CCN(CC2)C2CCC2)C=C1 | C18H20ClN3O
reactant | pyrrolidinone | 0.80 mmol, 0.06 ml | N1C(CCC1)=O | C4H7NO
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.12 mmol, 0.01 ml | CNCCNC | C4H12N2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | copper (I) iodide | 0.12 mmol, 23 mg | [Cu]I
product | 1-{5-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-2-pyrazinyl}-2-pyrrolidinone | 64 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC=2N=CC(=NC2)N2C(CCC2)=O | C22H26N4O2
